US04347378
N,N-bis(Pelargonoyloxyethyl)pelargonoylacetamide
106 g (0.6 mole) of pelargonoyl chloride was added dropwise with stirring to a solution of 32.6 g (0.2 mole) of N,N-bis(hydroxyethyl)hydroxyacetamide in 60 ml of pyridine. The precipitated pyridine hydrochloride was filtered, washed with benzene, and discarded. The benzene solution of product was water washed, dried over sodium sulfate, and passed through an activated alumina column to remove any acid. The benzene was stripped off an a rotary evaporator. The yield of product was essentially quantitative. Its structure was established by infrared and nuclear magnetic resonance spectroscopy. It had nD30 1.4537 and d430 0.9745.

reactant | pelargonoyl chloride | 0.6 mole, 106 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | N,N-bis(hydroxyethyl)hydroxyacetamide | 0.2 mole, 32.6 g | OCCN(C(CO)=O)CCO | C6H13NO4
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | N,N-bis(Pelargonoyloxyethyl)pelargonoylacetamide | C(CCCCCCCC)(=O)OCCN(C(CC(CCCCCCCC)=O)=O)CCOC(CCCCCCCC)=O | C33H61NO6
